Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest discomfort, acid reflux
 
Major Surgical or Invasive Procedure:
Coronary angiography ___:

• No epicardial major vessel coronary artery disease.The distal 
LPL ___ is small caliber and appears more narrow in the mid 
segment before returning to larger caliber. This could represent 
a spontaneous dissection.

TTE ___: IMPRESSION: Normal biventricular cavity sizes and 
regional/global systolic function. No valvular pathology or 
pathologic flow identified. Normal estimated pulmonary artery 
systolic pressure. Minimally dilated ascending aorta. No prior 
TTE available for comparison.

 
History of Present Illness:
Patient is a ___ female with ___ Hashimoto thyroiditis, 
IBS who initially was referred to ___ with chest pain. She 
started having chest pain on ___ at approximately 9 ___ which 
she attributed to indigestion. She had recurrence of chest pain 
at 11 ___. She woke her husband who checked her HR and noticed 
she had bradycardia in the ___. Yesterday morning, patient 
presented to Urgent Care and was found to have troponin of 0.16 
and EKG showed T wave flattening in leads III and aVF. 

Patient was referred to ___ and started on heparin gtt, ASA 81 
mg, atorvastatin 80 mg, metoprolol tartrate 12.5 mg PO TID. 
Troponins were trended to peak. Patient had coronary angiography 
earlier this afternoon which showed no significant major vessel 
CAD and distal LPL vessel which was small caliber and narrower 
in mid-segment before returning to larger caliber. This could 
represent a spontaneous dissection. 

EKG: Sinus rhythm, T wave flattening in III, aVF, no ST-T wave 
elevations or TWI 
Labs/studies notable for: Troponin 0.22 > 0.21 > 0.19. 
Patient was given: ASA 81 mg, heparin gtt, atorvastatin 80 mg, 
metoprolol tartrate 12.5 mg PO TID  

On the floor, patient endorses headache and right wrist 
tenderness. She denies chest pain, palpitations, SOB, dyspnea, 
pleurisy, N/V, orthopnea, cough, abdominal pain, lower extremity 
edema, arthralgias, myalgias, photophobia, phonophobia. Patient 
has been chest pain free since ___ ___. 

 
Past Medical History:
1. CARDIAC RISK FACTORS: None
2. CARDIAC HISTORY  
- Coronary angiography ___ with distal LPL narrowing, 
otherwise no major CAD 
- No previous TTE
- Sinus rhythm, no history of A. fib  
3. OTHER PAST MEDICAL HISTORY  
- Irritable bowel syndrome-D
- ___'s thyroiditis/hypothyroidism
- B12 deficiency
- Small intestinal bacterial overgrowth
 
Social History:
___
Family History:
Family history significant for Alzheimer's in her father. HTN in 
both parents.  
 
Physical Exam:
ADMISSION EXAM
=======================
VS: 98.2 PO 117 / 74 74 18 99 room air 
GENERAL: Well developed, well nourished female in NAD. Oriented 
x3. Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
No xanthelasma.  
NECK: Supple. JVD not elevated. 
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. Regular rate and rhythm. Normal S1, S2. No murmurs, rubs, 
or gallops. no thrills or lifts.  
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema. R radial dressing c/d/i 
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  

DISCHARGE EXAM
=======================
GENERAL: Well developed, well nourished female in NAD. Oriented 
x3. Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
No xanthelasma.  
NECK: Supple. JVD not elevated. 
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. Regular rate and rhythm. Normal S1, S2. No murmurs, rubs, 
or gallops. no thrills or lifts.  
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema. R radial dressing c/d/i 
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric. 
 
Pertinent Results:
ADMISSION LABS
==========================
___ 05:30PM BLOOD WBC-6.4 RBC-4.56 Hgb-13.3 Hct-41.7 MCV-91 
MCH-29.2 MCHC-31.9* RDW-12.6 RDWSD-42.3 Plt ___
___ 05:30PM BLOOD ___ PTT-26.3 ___
___ 11:40AM BLOOD Glucose-95 UreaN-13 Creat-0.8 Na-141 
K-4.1 Cl-100 HCO3-28 AnGap-13
___ 11:40AM BLOOD cTropnT-0.16*
___ 05:30PM BLOOD CK-MB-16* cTropnT-0.22*
___ 10:50PM BLOOD CK-MB-11* cTropnT-0.21*
___ 05:15AM BLOOD CK-MB-7 cTropnT-0.19*
___ 05:30PM BLOOD Calcium-9.5 Phos-3.1 Mg-2.1 Cholest-165
___ 05:38PM BLOOD %HbA1c-5.2 eAG-103
___ 05:30PM BLOOD Triglyc-78 HDL-95 CHOL/HD-1.7 LDLcalc-54

RELEVANT STUDIES
==========================
___ CXR PA/LATERAL: No acute intrathoracic cardiopulmonary 
process.

___ CORONARY ANGIOGRAPHY:
The left main, left anterior descending, circumflex and right 
coronary artery have no obstructive disease. There is a small 
distal LPL branch that is diffusely narrowed in the mid segment.

___ TRANSTHORACIC ECHOCARDIOGRAM: 
IMPRESSION: Normal biventricular cavity sizes and 
regional/global systolic function. No valvular pathology or 
pathologic flow identified. Normal estimated pulmonary artery 
systolic pressure. Minimally dilated ascending aorta. No prior 
TTE available for comparison.
 
Brief Hospital Course:
Ms. ___ is a ___ female with ___ Hashimoto 
hypothyroidism, IBS who presents with NSTEMI. Patient found to 
have LPL narrowing on coronary angiography concerning for 
spontaneous dissection. Managed medically and monitored for 48 
hours with no residual symptoms, lab abnormalities, or telemetry 
abnormalities. 

CORONARIES: ___ angiography w/ no significant major CAD, 
distal LPL narrowing concerning for spontaneous dissection 
PUMP: No previous TTE
RHYTHM: SR 

=============== 
ACTIVE ISSUES: 
=============== 
# NSTEMI
# Spontaneous coronary artery dissection
Noted to have NSTEMI in urgent care after isolated episode of 
chest discomfort. Troponins, CK-MB have been trended to peak and 
patient remains chest pain free. Coronary angiography did not 
show significant major vessel CAD but did show distal LPL 
narrowing which likely represented spontaneous coronary artery 
dissection. Followup echocardiogram demonstrating no wall motion 
abnormalities or valvular abnormalities
- To be discharged on ASA, Plavix, atorvastatin 20mg qdaily, and 
metoprolol XR 50 mg qdaily.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hyoscyamine 0.125 mg SL Q6H:PRN Cramping pains 
2. Erythromycin 250 mg PO QHS 
3. Levothyroxine Sodium 175 mcg PO DAILY 
4. Cyanocobalamin 1000 mcg PO DAILY 
5. Vitamin D 1000 UNIT PO DAILY 
6. Rifaximin 550 mg PO BID 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 20 mg PO QPM  
3.  Clopidogrel 75 mg PO DAILY  
4.  Metoprolol Succinate XL 50 mg PO DAILY  
5.  Cyanocobalamin 1000 mcg PO DAILY  
6.  Erythromycin 250 mg PO QHS  
7.  Hyoscyamine 0.125 mg SL Q6H:PRN Cramping pains  
8.  Levothyroxine Sodium 175 mcg PO DAILY  
9.  Rifaximin 550 mg PO BID  
10.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
#NSTEMI
#Spontaneous coronary artery dissection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ was a pleasure taking care of you at ___.

Why was I here?
- You were having chest discomfort and reflux symptoms which 
brought you to urgent care. Due to an elevated troponin which 
showed a minor heart attack, you were transferred to our cardiac 
direct access unit (___). 

What was done for me while I was here?
- You had a cardiac catheterization which looked at your heart 
blood vessels (coronary arteries). Your cath showed that one of 
the coronary arteries in your heart was most likely dissected, 
or torn. This is known as spontaneous coronary artery dissection 
(SCAD)
- You were treated medically (aspirin, clopidogrel, metoprolol, 
atorvastatin). 

What should I do when I go home?
- You should take all of your medications as prescribed. 
- You should attend all of your follow-up appointments. 
- Please make note of the symptoms you had experienced that 
brought you to urgent care, as if the problem were to recur, it 
would likely feel the same. 

We wish you the best for your future health. 

Sincerely,

Your ___ Care Team 
 
Followup Instructions:
___